US05962458
Diethyl azodicarboxylate (160 mg, 1.4 mmol) was added to a solution of 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline hydrochloride (261 mg, 0.7 mmol), (prepared as described for the starting material in Example 22), triphenylphosphine (367 mg, 1.4 mmol) and 2-(imidazol-1-yl)ethanol (94 mg, 0.84 mmol), (J. Med. Chem. 1993, 25, 4052-4060), in methylene chloride (5 ml) and the mixture stirred for 1 hour at ambient temperature. Acetic acid (42 mg, 0.7 mmol) was added and the solvent was removed by evaporation. The residue was triturated with ether, the solid collected by filtration, dried under vacuum and purified by chromatography eluting with methylene chloride/methanol (9/1 followed by 8/2) to give 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-(2-(imidazol-1-yl)ethoxy)-6-methoxyquinazoline (250 mg, 76%).

reactant | Diethyl azodicarboxylate | 1.4 mmol, 160 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline hydrochloride | 0.7 mmol, 261 mg | Cl.FC1=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C(C(=C1)C)OC(=O)OC
reactant | triphenylphosphine | 1.4 mmol, 367 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(imidazol-1-yl)ethanol | 0.84 mmol, 94 mg | N1(C=NC=C1)CCO | C5H8N2O
reactant | Acetic acid | 0.7 mmol, 42 mg | C(C)(=O)O | C2H4O2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-(2-(imidazol-1-yl)ethoxy)-6-methoxyquinazoline | 250 mg, 76% | FC1=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCN2C=NC=C2)C=C(C(=C1)C)OC(=O)OC | C23H22FN5O5
